US06350771B1
5-amino-1-[2,6-dibromo-4-(trifluoromethyl)phenyl]-4-thiocyanato-1H-pyrazole-3-carbonitrile, which was used directly in step 2 with iodoethane and methanol as solvent to give the 5-amino-1-[2,6-dibromo-4-(trifluoromethyl)phenyl]-4-methylthio-1H-pyrazole-3-carbonitrile, m.p. 211-214° C.

reactant | 5-amino-1-[2,6-dibromo-4-(trifluoromethyl)phenyl]-4-thiocyanato-1H-pyrazole-3-carbonitrile | NC1=C(C(=NN1C1=C(C=C(C=C1Br)C(F)(F)F)Br)C#N)SC#N | C12H4Br2F3N5S
solvent | iodoethane | ICC | C2H5I
solvent | methanol | CO | CH4O
product | 5-amino-1-[2,6-dibromo-4-(trifluoromethyl)phenyl]-4-methylthio-1H-pyrazole-3-carbonitrile | NC1=C(C(=NN1C1=C(C=C(C=C1Br)C(F)(F)F)Br)C#N)SC | C12H7Br2F3N4S
